### PR TITLE
Add `dealloc` `FieldsInBounds` preservation lemma

### PR DESCRIPTION
**Pull request by math-fehr**
This adds the proof that `dealloc` preserves `FieldsInBounds` given some hypotheses.
This lemma is quite complex to prove as we have to prove that every single pointer is still in bounds after the deallocation, which requires that the input is well-formed.

The proof will be cleaned-up later.

### CODE REVIEW

File: Veir/IR/DeallocLemmas.lean [hunk 1]
```diff
@@ -0,0 +1,230 @@
+import Veir.IR.WellFormed
+
+/-!
+  This file contains lemmas about deallocation of IR constructs.
+  Compared to other methods that modify the IRs, deallocation often
+  requires well-formedness lemmas to prove the `FieldsInBounds`
+  preservation.
+
+  This file is thus used to collect such lemmas without avoiding
+  circular imports.
```
Comment (tobiasgrosser) [inline Veir/IR/DeallocLemmas.lean]: What does `without avoiding circular imports` mean?

File: Veir/IR/Basic.lean [hunk 2]
```diff
@@ -391,6 +391,10 @@ theorem OperationPtr.getResult_op {op : OperationPtr} {index : Nat} :
     (OperationPtr.getResult op index).op = op := by
   grind [getResult]
 
+theorem OperationPtr.eq_getResult_of_OpResultPtr_op_eq {res : OpResultPtr} :
```
Comment (luisacicolini) [inline Veir/IR/Basic.lean:394]: Why `OpResult` and not `opResult`? I think in lean we never have upper case after _ (sorry I just noticed that now)

File: Veir/IR/DeallocLemmas.lean [hunk 3]
```diff
@@ -0,0 +1,230 @@
...
+theorem IRContext.fieldsInBounds_OperationPtr_dealloc {ctx : IRContext} {inBounds : op.InBounds ctx}
+    (wf : ctx.WellFormed (Std.ExtHashSet.fromOperands ctx op) (Std.ExtHashSet.fromSuccessors ctx op))
+    (huses : ¬ op.hasUses ctx)
+    (hparent : (op.get! ctx).parent = none)
+    (hregions : op.getNumRegions! ctx = 0)
+    (htoplevelOp : ctx.topLevelOp ≠ op) :
+    IRContext.FieldsInBounds (OperationPtr.dealloc op ctx inBounds) := by
+  have inMissingUses : ∀ operand, operand.InBounds ctx → operand.op = op → operand ∈ (Std.ExtHashSet.fromOperands ctx op) := by
+    intro operand operandIn hoperandOp
+    simp [Std.ExtHashSet.fromOperands]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]: nonterminal `simp`

File: Veir/IR/DeallocLemmas.lean [hunk 4]
```diff
@@ -0,0 +1,230 @@
...
+    exists operand.index
+    subst op
+    constructor
+    · grind [Std.Rco.mem_toList_iff_mem, OpOperandPtr.InBounds, OperationPtr.getNumOperands, OperationPtr.getOpOperand]
+    · simp [OperationPtr.getOpOperand]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean:84]: nonterminal simp? I'm not sure because I don't see indentation super well

File: Veir/IR/DeallocLemmas.lean [hunk 5]
```diff
@@ -0,0 +1,230 @@
...
+  have inMissingSuccessorUses : ∀ blockOperand, blockOperand.InBounds ctx → blockOperand.op = op
+        → blockOperand ∈ (Std.ExtHashSet.fromSuccessors ctx op) := by
+    intro blockOperand blockOperandIn hblockOperandOp
+    simp [Std.ExtHashSet.fromSuccessors]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]: nonterm simp

File: Veir/IR/DeallocLemmas.lean [hunk 6]
```diff
@@ -0,0 +1,230 @@
...
+    exists blockOperand.index
+    subst op
+    constructor
+    · grind [Std.Rco.mem_toList_iff_mem, BlockOperandPtr.InBounds, OperationPtr.getNumSuccessors, OperationPtr.getBlockOperand]
+    · simp [OperationPtr.getBlockOperand]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean:94]: nonterminal?

File: Veir/IR/DeallocLemmas.lean [hunk 7]
```diff
@@ -0,0 +1,230 @@
...
+          simp only
+          grind [ValuePtr.DefUse, Array.getElem_of_mem]
+        case valueFirstUse firstUse =>
+          cases firstUse
+          case blockArgument blockArg => simp
+          case opResult opRes =>
+            simp only
+            have : operand ∈ array := by grind [ValuePtr.DefUse]
+            intro hopResOp
+            simp [←OperationPtr.hasUses!_eq_hasUses] at huses
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
            simp [← OperationPtr.hasUses!_eq_hasUses] at huses
```

File: Veir/IR/DeallocLemmas.lean [hunk 8]
```diff
@@ -0,0 +1,230 @@
...
+            simp [OperationPtr.hasUses!_eq_false_iff_hasUses!_getResult_eq_false] at huses
+            have hopResUses := huses opRes.index (by grind)
+            have : op.getResult opRes.index = opRes := by cases opRes; grind [OperationPtr.getResult]
+            simp [this] at hopResUses
+            simp only [ValuePtr.hasUses!_def,
+              Option.isSome_eq_false_iff, Option.isNone_iff_eq_none] at hopResUses
+            grind [ValuePtr.DefUse.getFirstUse!_eq_of_back_eq_valueFirstUse]
+      · simp only [←OpOperandPtr.get!_eq_get]
+        simp (disch := grind) only [OpOperandPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_operation]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_operation]
```

File: Veir/IR/DeallocLemmas.lean [hunk 9]
```diff
@@ -0,0 +1,230 @@
...
+            intro hopResOp
+            simp [←OperationPtr.hasUses!_eq_hasUses] at huses
+            simp [OperationPtr.hasUses!_eq_false_iff_hasUses!_getResult_eq_false] at huses
+            have hopResUses := huses opRes.index (by grind)
+            have : op.getResult opRes.index = opRes := by cases opRes; grind [OperationPtr.getResult]
+            simp [this] at hopResUses
+            simp only [ValuePtr.hasUses!_def,
+              Option.isSome_eq_false_iff, Option.isNone_iff_eq_none] at hopResUses
+            grind [ValuePtr.DefUse.getFirstUse!_eq_of_back_eq_valueFirstUse]
+      · simp only [←OpOperandPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← OpOperandPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 10]
```diff
@@ -0,0 +1,230 @@
...
+      have operandIn' := OpResultPtr.dealloc.inBounds_genericPtr_of_inBounds_dealloc operandIn'
+      simp only [GenericPtr.iff_opOperand] at operandIn'
+      have opNe : op ≠ op' := by grind
+      have ⟨array, harray⟩ := wf.valueDefUseChains (operand.get! ctx).value (by grind)
+      constructor
+      · simp only [Option.maybe_def]
+        grind [ValuePtr.DefUse, Array.getElem_of_mem]
+      · simp only [←OpOperandPtr.get!_eq_get]
+        simp (disch := grind) only [OpOperandPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_opOperandPtr]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_opOperandPtr]
```

File: Veir/IR/DeallocLemmas.lean [hunk 11]
```diff
@@ -0,0 +1,230 @@
...
+      have operandIn' := operandIn
+      simp [←GenericPtr.iff_opOperand] at operandIn'
+      have operandIn' := OpResultPtr.dealloc.inBounds_genericPtr_of_inBounds_dealloc operandIn'
+      simp only [GenericPtr.iff_opOperand] at operandIn'
+      have opNe : op ≠ op' := by grind
+      have ⟨array, harray⟩ := wf.valueDefUseChains (operand.get! ctx).value (by grind)
+      constructor
+      · simp only [Option.maybe_def]
+        grind [ValuePtr.DefUse, Array.getElem_of_mem]
+      · simp only [←OpOperandPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← OpOperandPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 12]
```diff
@@ -0,0 +1,230 @@
...
+        have := (wf.operations operand.op (by grind)).blockOperand_owner operand.index (by grind [BlockOperandPtr.inBounds_def])
+        simp only [OperationPtr.getBlockOperand] at this
+        cases operand
+        grind
+      · grind [Option.maybe_def]
+    · grind
+    · intro operand operandIn hop
+      have hoperandOp := OpOperandPtr.InBounds.op_ne_of_inBounds_OperationPtr_dealloc operandIn
+      have operandIn' := operandIn
+      simp [←GenericPtr.iff_opOperand] at operandIn'
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      simp [← GenericPtr.iff_opOperand] at operandIn'
```

File: Veir/IR/DeallocLemmas.lean [hunk 13]
```diff
@@ -0,0 +1,230 @@
...
+      have operandIn' := operandIn
+      simp [←GenericPtr.iff_blockOperand] at operandIn'
+      have operandIn' := OpResultPtr.dealloc.inBounds_genericPtr_of_inBounds_dealloc operandIn'
+      simp only [GenericPtr.iff_blockOperand] at operandIn'
+      have opNe : op ≠ op' := by grind
+      constructor
+      · simp only [Option.maybe_def]
+        have ⟨array, harray⟩ := wf.blockDefUseChains (operand.get! ctx).value (by grind)
+        grind [BlockPtr.DefUse, Array.getElem_of_mem]
+      · simp only [←BlockOperandPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← BlockOperandPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 14]
```diff
@@ -0,0 +1,230 @@
...
+        simp (disch := grind) only [BlockOperandPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_blockOperandPtr]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_blockOperandPtr]
```

File: Veir/IR/DeallocLemmas.lean [hunk 15]
```diff
@@ -0,0 +1,230 @@
...
+        apply OpOperandPtr.dealloc.inBounds_dealloc_genericPtr; grind
+        cases hback : (operand.get! ctx).back; rotate_right 1; simp only
+        have ⟨array, harray⟩ := wf.blockDefUseChains (operand.get! ctx).value (by grind)
+        grind [BlockPtr.DefUse, Array.getElem_of_mem]
+      · simp only [←BlockOperandPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← BlockOperandPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 16]
```diff
@@ -0,0 +1,230 @@
...
+    constructor
+    · grind [Std.Rco.mem_toList_iff_mem, BlockOperandPtr.InBounds, OperationPtr.getNumSuccessors, OperationPtr.getBlockOperand]
+    · simp [OperationPtr.getBlockOperand]
+  constructor
+  · grind
+  · intro op' op'In
+    constructor
+    · intro res resInBounds resOp
+      constructor
+      · simp only [←OpResultPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← OpResultPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 17]
```diff
@@ -0,0 +1,230 @@
...
+        simp (disch := grind) only [OpResultPtr.get!_OperationPtr_dealloc]
+        simp only [Option.maybe_def]
+        intro firstUse
+        intro hFirstUse
+        simp only [←GenericPtr.iff_opOperand]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_opOperand]
```

File: Veir/IR/DeallocLemmas.lean [hunk 18]
```diff
@@ -0,0 +1,230 @@
...
+        apply OpOperandPtr.dealloc.inBounds_dealloc_genericPtr
+        · grind
+        · simp only
+          have := wf.valueDefUseChains res (by grind)
+          grind [ValuePtr.DefUse, Std.ExtHashSet.fromOperands]
+      · simp only [←OpResultPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← OpResultPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 19]
```diff
@@ -0,0 +1,230 @@
...
+        simp (disch := grind) only [OpResultPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_operation]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_operation]
```

File: Veir/IR/DeallocLemmas.lean [hunk 20]
```diff
@@ -0,0 +1,230 @@
...
+      · simp only [←BlockOperandPtr.get!_eq_get]
+        simp (disch := grind) only [BlockOperandPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_blockOperandPtr]
+        apply OpOperandPtr.dealloc.inBounds_dealloc_genericPtr; grind
+        cases hback : (operand.get! ctx).back; rotate_right 1; simp only
+        have ⟨array, harray⟩ := wf.blockDefUseChains (operand.get! ctx).value (by grind)
+        grind [BlockPtr.DefUse, Array.getElem_of_mem]
+      · simp only [←BlockOperandPtr.get!_eq_get]
+        simp (disch := grind) only [BlockOperandPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_operation]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_operation]
```

File: Veir/IR/DeallocLemmas.lean [hunk 21]
```diff
@@ -0,0 +1,230 @@
...
+        apply OpOperandPtr.dealloc.inBounds_dealloc_genericPtr; grind
+        simp only
+        intro howner
+        apply hoperandOp
+        have := (wf.operations operand.op (by grind)).operand_owner operand.index (by grind [OpOperandPtr.inBounds_def])
+        simp only [OperationPtr.getOpOperand] at this
+        cases operand
+        grind
+      · simp only [←OpOperandPtr.get!_eq_get]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
      · simp only [← OpOperandPtr.get!_eq_get]
```

File: Veir/IR/DeallocLemmas.lean [hunk 22]
```diff
@@ -0,0 +1,230 @@
...
+        simp (disch := grind) only [OpOperandPtr.get!_OperationPtr_dealloc]
+        simp only [←GenericPtr.iff_value]
```
Comment (luisacicolini) [inline Veir/IR/DeallocLemmas.lean]:
```suggestion
        simp only [← GenericPtr.iff_value]
```

File: Veir/IR/DeallocLemmas.lean (hunk 4 above)
Comment (ineol) [reply Veir/IR/DeallocLemmas.lean:84]: I think this one is fine, because it closes the proof of the `have` tactic.
